US08471005B2
Imidazole-2-carboxaldehyde (0.011 g, 0.112 mmol) and [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine (53 mg, 0.12 mmol) were treated with sodium triacetoxyborohydride (0.033 g, 0.157 mmol) and acetic acid (0.064 mL, 0.112 mmol) in tetrahydrofuran (0.900 mL) at room temperature overnight. The reaction mixture was then concentrated and partitioned between dichloromethane and a saturated aqueous sodium bicarbonate solution. It was dried on NaSO4, filtered and concentrated. The product was isolated by reverse phase hplc (Gilson) to afford {4-[1-(1H-imidazol-2-ylmethyl)-piperidin-4-yl]-2-methoxy-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine as a yellow foam (5 mg, 9%). 1H-NMR (CDCl3) δ 9.63 (s, 1H), 8.69 (s, 1H), 8.29 (d, J=8.7 Hz, 1H), 8.00 (d, J=6.2 Hz, 1H), 7.44 (m, 2H), 7.13 (m, 1H), 7.07 (d, J=8.3 Hz, 1H), 7.02 (s, 2H), 6.83 (d, J=4.7 Hz, 1H), 6.73 (m, 2H), 3.89 (s, 3H), 3.84 (s, 3H), 3.71 (s, 2H), 2.97 (d, J=11.4 Hz, 2H), 2.49 (m, 1H), 2.25 (m, 2H), 1.85 (m, 5H); LC/MS (ESI+): 510.2 (M+H).

reactant | Imidazole-2-carboxaldehyde | 0.112 mmol, 0.011 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | [7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine | 0.12 mmol, 53 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C25H27N5O2
reactant | sodium triacetoxyborohydride | 0.157 mmol, 0.033 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.112 mmol, 0.064 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 0.900 mL | O1CCCC1 | C4H8O
product | {4-[1-(1H-imidazol-2-ylmethyl)-piperidin-4-yl]-2-methoxy-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 5 mg, 9% | N1C(=NC=C1)CN1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC | C29H31N7O2
